US08242145B2
Step 2: {3-[4-Bromo-2-(2-oxo-pyrrolidin-1-ylmethyl)-phenoxy]-phenyl}-acetic acid
{3-[4-Bromo-2-(2-oxo-pyrrolidin-1-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester (0.35 mmol) in 1,4-dioxane and H2O was treated with lithium hydroxide at 50° C. for 30 minutes. The crude material was purified by preparative HPLC to give the title compound.

reactant | {3-[4-Bromo-2-(2-oxo-pyrrolidin-1-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | 0.35 mmol | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(CCC1)=O)=O | C21H22BrNO4
reactant | lithium hydroxide | [OH-].[Li+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | {3-[4-Bromo-2-(2-oxo-pyrrolidin-1-ylmethyl)-phenoxy]-phenyl}-acetic acid | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(CCC1)=O | C19H18BrNO4
